US06821980B1
5-[2,6-Diethoxy-3′-(2-methoxy-ethoxy)-biphenyl-4-ylmethyl]-pyrimidine-2,4-diamine
4′-(2,4-Diamino-pyrimidin-5-ylmethyl)-2′,6′-diethoxy-biphenyl-3-ol (200 mg; 0.526 mmol) is suspended in dimethylformamide (5 ml; dried over a molecular sieve), and potassium tert-butylate (83 mg; 0.736 mmol) is added at room temperature. 2-Bromoethyl methyl ether (0.059 ml; 0.63 mmol) in dimethylformamide (5 ml; dried over a molecular sieve) is added in the course of 35 minutes to the solution formed. After stirring at room temperature for 12 hours, the reaction mixture is concentrated and the residue is stirred successively with water (twice) and diethyl ether, filtered off with suction and dried under a high vacuum.

reactant | 4′-(2,4-Diamino-pyrimidin-5-ylmethyl)-2′,6′-diethoxy-biphenyl-3-ol | 0.526 mmol, 200 mg | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OCC)C1=CC(=CC=C1)O)OCC | C21H24N4O3
reactant | potassium tert-butylate | 0.736 mmol, 83 mg | CC(C)(C)[O-].[K+]
reactant | 2-Bromoethyl methyl ether | 0.63 mmol, 0.059 ml | COCCBr | C3H7BrO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-[2,6-Diethoxy-3′-(2-methoxy-ethoxy)-biphenyl-4-ylmethyl]-pyrimidine-2,4-diamine | C(C)OC1=C(C(=CC(=C1)CC=1C(=NC(=NC1)N)N)OCC)C1=CC(=CC=C1)OCCOC | C24H30N4O4
